US05808062
4-Hydroxy-3-[[(2-methylphenyl)methyl]thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (15 mL), 1N sodium hydroxide (5.31 mL), [(2-methylphenyl)methyl] p-toluenethiosulfonate (1.55 g, 5.31 mmol). m.p. 176°-178° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.42 (s, 3 H), 3.99 (s, 2 H), 6.74 (s, 1 H), 709 (m, 4 H), 7.53 (m, 3 H), 7.79 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 5.31 mL | [OH-].[Na+]
reactant | [(2-methylphenyl)methyl] p-toluenethiosulfonate | 5.31 mmol, 1.55 g | C1(=CC=C(C=C1)S(=O)(OCC1=C(C=CC=C1)C)=S)C | C15H16O2S2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[[(2-methylphenyl)methyl]thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=C(C=CC=C1)C | C19H16O3S
